US05700806
By substituting in Preparative Example 2 step D, 8-chloro-3-methoxy-5,6-dihydro-11H-benzo[5,6]-cyclohepta[1,2-b]pyridin-11-one for 9-fluoro-5,6-dihydro-11H-benzo[5,6]-cyclohepta[1,2-b]pyridin-11-one and employing basically the same methods as steps D through H of Preparative Example 2, one obtains 8-chloro-3-methoxy- 11-(4-piperidylidene)-6,11-dihydro-5H-benzo[5,6]-cyclohepta[1,2-b]pyridine as a white solid (MH+ 340).

reactant | 8-chloro-3-methoxy-5,6-dihydro-11H-benzo[5,6]-cyclohepta[1,2-b]pyridin-11-one | ClC=1C=CC2=C(CCC=3C(=NC=C(C3)OC)C2=O)C1 | C15H12ClNO2
reactant | 9-fluoro-5,6-dihydro-11H-benzo[5,6]-cyclohepta[1,2-b]pyridin-11-one | FC1=CC2=C(CCC=3C(=NC=CC3)C2=O)C=C1 | C14H10FNO
product | 8-chloro-3-methoxy- 11-(4-piperidylidene)-6,11-dihydro-5H-benzo[5,6]-cyclohepta[1,2-b]pyridine | ClC=1C=CC2=C(CCC=3C(=NC=C(C3)OC)C2=C2CCNCC2)C1 | C20H21ClN2O
